US09085578B2
2-((6-bromopyridin-3-yl)oxy)ethanamine dihydrochloride
To a solution of tert-butyl(2-((6-bromopyridin-3-yl)oxy)ethyl)carbamate obtained in Reference Example 4 (1.20 g) in ethanol (25 mL) was added a 4M solution of hydrogen chloride in ethyl acetate (10 mL) at room temperature. The mixture was stirred at room temperature for 3 days, and the solvent was evaporated under reduced pressure. To the residue was added ethanol, the solvent was evaporated under reduced pressure, and the precipitated solid was collected by filtration to give the title compound (1.09 g).

reactant | tert-butyl(2-((6-bromopyridin-3-yl)oxy)ethyl)carbamate | C(C)(C)(C)OC(NCCOC=1C=NC(=CC1)Br)=O | C12H17BrN2O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-((6-bromopyridin-3-yl)oxy)ethanamine dihydrochloride | 1.09 g | Cl.Cl.BrC1=CC=C(C=N1)OCCN | InChI=1S/C7H9BrN2O.2ClH/c8-7-2-1-6(5-10-7)11-4-3-9;;/h1-2,5H,3-4,9H2;2*1H
